US04839353
To a solution of 86 mg of 5-methyl-2-[3-(1-naphthyl)-3-oxopropyl]-4-piperidinopyridine in 2 ml of triethylene glycol was added 48 mg of 100% hydrazine hydrate, and the mixture was heated at 110° to 120° C. for 2 hours. Then, 68 mg of potassium hydroxide was added, and the bath temperature was raised to about 185° C. The mixture was further heated at this temperature for 5 hours. The reaction mixture was poured into ice and extracted with ether. The ether layer was washed with water, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (eluted with chloroform) to give 5-methyl-2-[3-(1-naphthyl)propyl]-4-piperidinopyridine as an oil. The product was treated witn an ethanol solution of hydrogen chloride, and recrystallized from acetone/ether to give 28 mg (yield 28%) of the captioned compound.

reactant | 5-methyl-2-[3-(1-naphthyl)-3-oxopropyl]-4-piperidinopyridine | 86 mg | CC=1C(=CC(=NC1)CCC(=O)C1=CC=CC2=CC=CC=C12)N1CCCCC1 | C24H26N2O
reactant | hydrazine hydrate | 48 mg | O.NN
reactant | potassium hydroxide | 68 mg | [OH-].[K+]
solvent | triethylene glycol | 2 ml | C(COCCOCCO)O | C6H14O4
product | 5-methyl-2-[3-(1-naphthyl)propyl]-4-piperidinopyridine | CC=1C(=CC(=NC1)CCCC1=CC=CC2=CC=CC=C12)N1CCCCC1 | C24H28N2
